US06057369
3-(4-Phenylbutyl)-2-oxaspiro[3,4]octan-1-one (2 g, 7.7 mmol) and 3,4-dimethoxybenzenethiol (2 g, 11.7 mmol) are dissolved in isopropanol (30 mL) and cooled to 0° C. A 1 M solution of NaOH (9.7 mL, 9.7 mmol) is added slowly, and after 5 minutes at 0° C., the reaction is allowed to stir at room temperature overnight. The solvent is removed in vacuo and the residue is dissolved in CH2Cl2 (100 mL). This solution is washed with 1 N HCl (50 mL), brine (30 mL) and dried over MgSO4. The solution is concentrated in vacuo and the crude product is purified by column chromatography (silica, 1% MeOH in CH2Cl2) to yield 1-[1-(3,4-dimethoxyphenylsulfanyl)-5-phenylpentyl]-cyclopentanecarboxylic acid (2.2 g, 65%). 1H NMR (300 MHz, CDCl3) δ 7.28-7.23 (m, 2H), 7.18-7.09 (m, 3H), 7.01-6.91 (m, 2H), 6.76 (d, J=8.1 Hz, 1H), 3.86 (s, 3H), 3.84 (s, 3H), 3.31 (dd, J=10.0, 3.0 Hz, 1H), 2.58-2.51 (m, 2H), 2.18-2.08 (m, 2H), 1.89-1.40 (m, 12H); MS (EI) m/e 428 (M+).

reactant | 3-(4-Phenylbutyl)-2-oxaspiro[3,4]octan-1-one | 7.7 mmol, 2 g | C1(=CC=CC=C1)CCCCC1OC(C12CCCC2)=O | C17H22O2
reactant | 3,4-dimethoxybenzenethiol | 11.7 mmol, 2 g | COC=1C=C(C=CC1OC)S | C8H10O2S
reactant | NaOH | 9.7 mmol, 9.7 mL | [OH-].[Na+]
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
product | 1-[1-(3,4-dimethoxyphenylsulfanyl)-5-phenylpentyl]-cyclopentanecarboxylic acid | 2.2 g, 65% | COC=1C=C(C=CC1OC)SC(CCCCC1=CC=CC=C1)C1(CCCC1)C(=O)O | C25H32O4S
